Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Lethargy

 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Pt is an ___ yo woman with past medical history significant for 
___ Body dementia, CKD, diabetes and intermittent lethargy 
coming from ___ for lethargy and change in mental 
status. 3 days prior the patient began to become more lethargic 
than usual and responding less to commands. She also developed a 
cough although no documented fevers. The patient had a CXR 
___: perihilar infiltrates) and started on levoquin 500mg PO 
daily. No labs were done. Despite poor PO intake, her surgars 
have been very high. She has had a bad cough with thick 
yellowish phlegm that is increased from usual. Having copious 
amounts of phlegm and no improvement of her symptoms despite 
antibiotics. On the day of admission, she had cool extremities, 
appeared unwell and O2 sat was 87% on room air. Even after her 
extremities were warmed up, she required oxygen, sent to the ED 
on 6L, and needed 2L nasal cannula to maintian sats. Given her 
progressive symptoms, she was sent to the ED for further 
evaluation.  
 
In the ED, initial vs were: 95.8 88 100/50 22 100% 6l. Labs were 
remarkable for WBC 11.1 (N:74 Band:3 ___ M:4 E:0 Bas:0 Nrbc: 
4), H/H 9.6/30.5, BUN/Cr 80/2.7 (baseline ___, Bicarb 21 
and anion gap of 18, lactate 2.4, Glucose 219. Patient was given 
vancomycin 1gm IV x1, Zosyn 4.5gm IV x1, Duoneb x2. Vitals on 
Transfer: 97.9 99 138/89 20 97%.  
 
On the floor, patient denies any symptoms, although is not alert 
or oriented so unreliable.  
 
Review of sytems:  
Unable to obtain given dementia. HPI is per nurse at ___ 
___  

 
Past Medical History:
Obesity  
HYPERCHOLESTEROLEMIA  
DM - TYPE 2 UNCNTRLD  
HYPERTENSION - ESSENTIAL, BENIGN
___ Body ___ syndrome   
arthritis  
positional vertigo  
gait abnormality  
GERD  
mild to severe bilateral sensorineural hearing loss  
h/o acid thrown in face many yrs ago when living in ___   
Vitamin D Deficiency    
Anemia  
Left Heel Ulcer
Cataracts w/ surgery in ___, R visual 
 

 
Social History:
___
Family History:
mother - died DM, CA  
father - Died complications of DM 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
Vitals: T: 97.6 BP: 124/60 P: 97 R: 20 O2: 96% 2L  
General: Drowsy, but easily arousable, not answering questions 
appropriately, has caked saliva tracing down side of right mouth 
 
HEENT: PERRL, EOMI, sclera aniceteric, dry mucous membranes, 
dried phlegm on side of mouth and thick saliva on lips  
Neck: supple, JVP difficult to assess  
Lungs: Poor effort by patient, but crackles at the bases and 
prolonged expiratory phase with wheezes posteriorly  
CV: tachycardic, regular rhythm, normal S1 + S2, no murmurs, 
rubs, gallops  
Abdomen: soft, non-tender, distended, bowel sounds present, no 
rebound tenderness or guarding  
Ext: Warm, well perfused, 2+ radial pulses, 1+ ___ and DP pulses 
bilaterally, no clubbing, cyanosis or edema, left heel ulcer 
wrapped  
Skin: quarter sized stage II coccyx ulcer  
Neuro: A&Ox1 (person), knew she was in hospital, but no which 
one. CN II-XII intact, able to lift arms above head and lift 
legs off the bed.  

DISCHARGE PHYSICAL EXAM:  
Vitals: T: 98.3 BP: 124/68 P: ___ R: 20 O2: 97%   
General: alert, oriented to person, hospital, limited to time.  
HEENT: PERRL, EOMI, sclera aniceteric, moist mucous membranes, 
Neck: supple, JVP difficult to assess  
Lungs: Poor effort by patient, bilateral basilar crackles. No 
wheeze.  
CV: RRR, normal S1 + S2, no murmurs, rubs, gallops  
Abdomen: soft, non-tender, distended, bowel sounds present, no 
rebound tenderness or guarding  
Ext: Warm, well perfused, 2+ radial pulses, 1+ ___ and DP pulses 
bilaterally, no clubbing, cyanosis or edema, left heel ulcer 
wrapped  
Skin: quarter sized stage II coccyx ulcer, no pus drainage.  
Neuro: A&Ox1 (person), knew she was in hospital, but no which 
one. CN II-XII intact, able to lift arms above head and lift 
legs off the bed.  

 
Pertinent Results:
ADMISSION LABS:
___ 06:00PM BLOOD WBC-11.1*# RBC-3.48* Hgb-9.6* Hct-30.5* 
MCV-88 MCH-27.6 MCHC-31.5 RDW-15.8* Plt ___
___ 06:00PM BLOOD Neuts-74* Bands-3 ___ Monos-4 Eos-0 
Baso-0 ___ Myelos-0 NRBC-4*
___ 06:00PM BLOOD Hypochr-1+ Anisocy-1+ Poiklo-1+ 
Macrocy-1+ Microcy-1+ Polychr-OCCASIONAL Ovalocy-1+ 
Burr-OCCASIONAL Tear Dr-OCCASIONAL
___ 06:00PM BLOOD Plt Smr-NORMAL Plt ___
___ 06:00PM BLOOD Glucose-219* UreaN-80* Creat-2.7*# Na-138 
K-4.8 Cl-103 HCO3-17* AnGap-23*
___ 11:09PM BLOOD Type-ART Temp-36.4 O2 Flow-2 pO2-35* 
pCO2-40 pH-7.33* calTCO2-22 Base XS--4 Intubat-NOT INTUBA
___ 06:09PM BLOOD Lactate-2.4*

DISCHARGE LABS:
___ 01:00PM BLOOD WBC-11.0 RBC-3.40* Hgb-9.8* Hct-29.7* 
MCV-87 MCH-28.9 MCHC-33.2 RDW-17.9* Plt ___
___ 01:00PM BLOOD Glucose-154* UreaN-57* Creat-2.0* Na-147* 
K-4.3 Cl-116* HCO3-17* AnGap-18

======================================

URINE:
___ 06:30PM URINE Color-Yellow Appear-Hazy Sp ___
___ 06:30PM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.0 Leuks-MOD
___ 06:30PM URINE RBC-1 WBC-6* Bacteri-FEW Yeast-MANY Epi-2
___ 06:30PM URINE CastHy-131*
___ 06:30PM URINE Mucous-RARE

======================================

MICROBIOLOGY:
___ URINE Legionella- NEGATIVE FOR LEGIONELLA SEROGROUP 1 
ANTIGEN.  
___ URINE CULTURE: YEAST.    >100,000 ORGANISMS/ML.. 
___ BLOOD CULTURE Blood Culture, Routine-PENDING  
___ BLOOD CULTURE Blood Culture, Routine-PENDING  

======================================

IMAGING:

CXR ___: Study is slightly limited due to patient rotation 
and low lung volumes.  Moderate cardiomegaly is present, and the 
size of the heart is likely accentuated due to low lung volumes. 
 The aorta is tortuous and demonstrates calcifications of the 
aortic knob.  While there is crowding of the bronchovascular 
structures, no overt pulmonary edema is seen.  Minimal streaky 
bibasilar airspace opacities likely reflect atelectasis.  No 
focal consolidation, pleural effusion or pneumothorax is 
identified.  Degenerative spurring in the left acromioclavicular 
joint is present.  Assessment of the right lung apex is slightly 
limited due to the patient's neck soft tissues projecting over 
this region. 
IMPRESSION: Low lung volumes with mild bibasilar atelectasis. 

RUQ US ___
FINDINGS:  The study is limited.  Liver is of normal 
echogenicity without any focal lesions.  There is no intra- or 
extra-hepatic biliary dilatation.  The common bile duct measures 
5 mm.  The portal vein is patent with normal hepatopetal flow.  
The gallbladder is unremarkable without gallstones, 
pericholecystic fluid or gallbladder wall thickening.  The 
pancreas is not clearly visualized.  The right kidney measures 
11.7 cm and there is no evidence of stones, hydronephrosis or 
concerning lesions.  The left kidney is difficult to measure.  
There are multiple cysts, the largest arising from the upper 
pole measuring 10 x 6.7 x 8.9 cm.  Smaller lower pole cysts are 
present. All appear simple.  The spleen is not enlarged 
measuring 11.3 cm.  There is a trace amount of perihepatic 
ascites. IMPRESSION: 
1.  No focal liver lesions or intra- or extra-hepatic biliary 
dilatation. 
2.  Trace amount of perihepatic ascites. 
3.  Multiple left renal cysts. 

CXR ___: FINDINGS:  Cardiomediastinal and hilar contours 
remain stable with moderate cardiomegaly.  The patient's head is 
obscuring the right lung apex, limiting assessment.  There is no 
pleural effusion or large pneumothorax.  There is no new focal 
opacity concerning for pneumonia.  There is no pulmonary edema. 
Upper zone vascular redistribution is likely chronic. 
IMPRESSION: No acute cardiopulmonary process or new finding 
concerning for pneumonia. 
 
Brief Hospital Course:
___ year-old woman with past medical history significant for 
___ syndrome, CKD, diabetes and intermittent lethargy 
who presented from ___ for lethargy, change in mental 
status and recent finding of pneumonia.  

ACTIVE ISSUES: 
================

# Lethargy: She has intermittent lethargy at baseline, however 
this worsened prior to admission per nursing home. Most likely 
attributed to her PNA and UTI.  For PNA, her antibiotics were 
broadened from levoquin to cefpodoxime and azithromycin.  For 
yeast in urine, she was treated with fluconazole x1 dose.  
Although, she was hypoxic on presentation there was no 
indication of Co2 retention by ABG.  Her lethargy improved in 24 
hours, however she continued to be lethargic upon awakening each 
morning.  There is concern for OSA and morning lethargy which 
should be evaluated in the future.

# Hypoxia: She required supplemental oxygen most likely because 
of ongoing pneumonia.  Treatment for PNA as above. There was no 
evidence of CHF exacerbation.  Although PE on the differential, 
no sinus tachycardia or EKG changes.  She was weaned off oxygen 
prior to discharge.  
 
#PNA: She presented with productive cough and radiologic 
evidence of infiltrate on CXR from OSH.  She was treated with 
Levofloxacin for CAP prior to admission. On admission, coverage 
was initially broadened to Vanc/Zosyn, however this was tapered 
to cefpodoxime and azithromycin to complete 7 day course. She 
will complete this course on ___.  Also, she demonstrated 
dysphagia during admission, thus concerning for aspiration pna.  
See nutrition modifications below.

#Incontinence/Candiduria: She has long history of incontinence 
and wears diapers at NH.  Foley was placed on admission.  Many 
yeast were found in her urine. Given lethargy and AMS, she was 
treated with fluconazole single dose. Foley was replaced on ___ 
and then removed on ___ at 3pm.  She did not void prior to 
discharge at 5pm. Plan for NH to monitor ouput and replace foley 
if no output at 1am.
 
# Acute on Chronic Kidney injury: She presented with Cr 2.7 
(baseline 1.2-1.4) in the setting of decreased po intake for a 
few days.  She was given IVF and Cr improved.  On discharge, Cr 
improved to 2.0.  Her Lasix was held on admission and should 
continue to be held until ___.  Please check cr prior to 
restarting. 
 
# Anion Gap Acidosis: Likely secondary to inorganic acids from 
acute kidney injury as well as lactic acidosis. This normalized 
with IVF therapy.  

# Transaminitis: She presented without abdominal pain but was 
found to have transaminitis without hyperbilirubinemia.  No 
acetaminophen toxicity. RUQ unremarkable for liver/gallbladder 
pathology.  Most likely this represents statin toxicity or 
autoimmune hepatitis.  Following labs are pending on discharge: 
___, AMA, ___, CK.  Her statin was held on discharge.

# Dysphagia: she was seen by S&S for concern of dysphagia. 
Following recs were made:
-modify nutrition diet as per the following:
-Diet: pureed solids and nectar-thick liquis.
-Meds: crushed in puree. 
-Aspiration precautions:
a. Small bites/sips
b. Check oral cavity for residue periodically during meals.
c. Feed only when awake, alert and attentinve.
d. Sit fully upright during meals.
-1:1 supervision during feeding.

CHRONIC ISSUES:
===============

# Anemia: stable.
  
# ___ Body dementia ___ Syndrome: Based on chart 
review, it appears she carries the diagnosis ___ 
and there was no convincing evidence for LBD.  She continued her 
olanzapine. 
 
# DM II: stable, she continued glargine and ISS.  Her ISS was 
increased to avoid postprandial hyperglycemia.   

# GERD: stable, she continued prilosec. 
 
# Pressure ulcer on coccyx: stage 2, no evidence of infection. 
She was seen by wound consult. 
 
# Left Heel Ulcer: stable.  Wound recs included Aquacel Ag 
dressing with DSD and Kerlix wrap. nonweightbearing with the 
Multi Podus boot.  
 
# Hypercholesterolemia: stable, her simvastatin was discontinued 
given transaminitis.    
  
# HTN: normotensive, she continued on metoprolol.  

TRANSITIONAL ISSUES and notes left to NH on Page 1:
====================================================
- HCP is ___ (son)
-Full Code  
-Foley removed on ___ at 3pm. Please ensure she voids by 1am on 
___. If not please replace foley.
-Hepatology follow up regarding transaminitis and pending labs: 
___, ama
-PLEASE HOLD LASIX UNTIL ___. At that time, please recheck Cr 
prior to restarting home Lasix dose
- Following labs are pending on discharge: ___, AMA, ___.
- Consider evaluation of sleep apnea in future given morning 
time somnolence
====
-modify nutrition diet as per the following:
-Diet: pureed solids and nectar-thick liquis.
-Meds: crushed in puree. 
-Aspiration precautions:
a. Small bites/sips
b. Check oral cavity for residue periodically during 
meals.
c. Feed only when awake, alert and attentinve.
d. Sit fully upright during meals.
-1:1 supervision during feeding.
=====

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Calcium 600 + D(3) *NF* (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit Oral Daily 
2. Levemir *NF* (insulin detemir) 24 units Subcutaneous QHS 
3. Multivitamins 1 TAB PO DAILY 
4. Nephrocaps 1 CAP PO DAILY 
5. NovoLOG *NF* (insulin aspart) 100 unit/mL Subcutaneous 
Sliding scale 
6. Omeprazole 20 mg PO DAILY 
7. Acetaminophen 650 mg PO Q8H:PRN pain 
8. Aspirin 81 mg PO DAILY 
9. FoLIC Acid 1 mg PO DAILY 
10. Furosemide 20 mg PO 3X/WEEK (___) 
11. Gabapentin 200 mg PO BID 
12. Metoprolol Tartrate 25 mg PO BID 
Hold for SBP<100, HR<60
 
13. OLANZapine 7.5 mg PO DAILY 
14. Senna 2 TAB PO HS 
15. Bisacodyl 10 mg PO/PR DAILY:PRN constipation 
16. Milk of Magnesia 30 mL PO DAILY:PRN constipation 
17. Simvastatin 20 mg PO DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Bisacodyl 10 mg PO/PR DAILY:PRN constipation 
3. FoLIC Acid 1 mg PO DAILY 
4. Gabapentin 200 mg PO Q24H 
5. Metoprolol Tartrate 25 mg PO BID 
6. Nephrocaps 1 CAP PO DAILY 
7. OLANZapine 7.5 mg PO HS 
8. Senna 2 TAB PO HS 
9. Omeprazole 20 mg PO DAILY 
10. Azithromycin 250 mg PO Q24H Duration: 6 Days 
RX *azithromycin 500 mg 1 tablet(s) by mouth daily Disp #*3 
Tablet Refills:*0
11. Cefpodoxime Proxetil 400 mg PO Q24H 
RX *cefpodoxime 200 mg 2 tablet(s) by mouth daily Disp #*6 
Tablet Refills:*0
12. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Capsule Refills:*0
13. Guaifenesin ___ mL PO Q6H:PRN cough 
RX *guaifenesin 100 mg/5 mL 5 ml by mouth every six (6) hours 
Disp #*1 Bottle Refills:*0
14. Acetaminophen 650 mg PO Q8H:PRN pain 
15. Calcium 600 + D(3) *NF* (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit Oral Daily 
16. Levemir *NF* (insulin detemir) 24 units Subcutaneous QHS 
17. Milk of Magnesia 30 mL PO DAILY:PRN constipation 
18. Multivitamins 1 TAB PO DAILY 
19. NovoLOG *NF* (insulin aspart) 100 unit/mL Subcutaneous 
Sliding scale 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Pneumonia
Candiduria
Acute on Chronic Kidney Injury
Anemia

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Lethargic but arousable.
Activity Status: Bedbound.

 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure taking care of you while you were admitted to 
___.  You were transferred from ___ because you had 
difficulty breathing and you were lethargic. We treated you here 
for pneumonia and urinary tract infection. You tolerated this 
well.  You will need to complete this course of antibiotics when 
you return home.  

You were also found to have acute kidney injury that was caused 
by dehydration.  We stopped your Lasix medication and treated 
you with IV fluids and you tolerated this well. When you return 
home, you should restart your lasix on ___. 

We also found that your liver enzymes were elevated and we are 
referring you to a liver doctor for further work up of this 
matter.

If when you return to your nursing home you have fever/chills, 
severe abdominal pain, difficulty breathing, or other concerning 
symptoms, please seek urgent medical attention. 
 
Followup Instructions:
___